US08071600B2
10% hydrochloric acid (5 ml) was added to a methanol solution (5 ml) of 3-(3-methoxy-4-methoxymethoxy-5-methylphenyl)oxazolidin-2-one (0.48 g, 1.79 mmol) and the mixture was stirred at 50° C. for 10 minutes. Water was added to the reaction solution, which was extracted with ethyl acetate. The extracted material was dried over magnesium sulfate, and thereafter concentrated to dryness under reduced pressure to obtain 3-(4-hydroxy-3-methoxy-5-methylphenyl)oxazolidin-2-one (434 mg) as a light yellow powder.

reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
reactant | 3-(3-methoxy-4-methoxymethoxy-5-methylphenyl)oxazolidin-2-one | 1.79 mmol, 0.48 g | COC=1C=C(C=C(C1OCOC)C)N1C(OCC1)=O | C13H17NO5
solvent | Water | O | H2O
product | 3-(4-hydroxy-3-methoxy-5-methylphenyl)oxazolidin-2-one | 434 mg | OC1=C(C=C(C=C1C)N1C(OCC1)=O)OC | C11H13NO4
